US07074798B2
8-Chlorotheophylline (4.9 g) and potassium carbonate (5 g) were dissolved in N,N-dimethylformamide (100 ml), and 1-bromo-2-butyne (2.4 ml) was added thereto. After stirring at room temperature overnight, the reaction mixture was diluted with ethyl acetate, and washed with water. Insoluble white solid was collected through filtration, and washed with ethyl acetate to give 3.8 g of 7-(2-butynyl)-8-chloro-1,3-dimethyl-3,7-dihydropurine-2,6-dione. Then, the resulting 7-(2-butynyl)-8-chloro-1,3-dimethyl-3,7-dihydropurine-2,6-dione (1.8 g) and 1-piperazine carboxylic acid tert-butyl ester (3.7 g) were stirred at 150° C. for 1 hour. After cooling to room temperature, the reaction mixture was extracted with ethyl acetate, the organic layer was washed with water and saturated brine, and dried over an hydrous magnesium sulfate. The solvent was removed by distillation at reduced pressure. The residue was purified by silica gel column chromatography to obtain 1.6 g of the title compound from a fraction eluted with hexane-ethyl acetate (1:4).

reactant | 8-Chlorotheophylline | 4.9 g | ClC1=NC=2N(C(N(C)C(C2N1)=O)=O)C | C7H7ClN4O2
reactant | potassium carbonate | 5 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-2-butyne | 2.4 ml | BrCC#CC | C4H5Br
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-(2-butynyl)-8-chloro-1,3-dimethyl-3,7-dihydropurine-2,6-dione | 3.8 g | C(C#CC)N1C(=NC=2N(C(N(C(C12)=O)C)=O)C)Cl | C11H11ClN4O2
